US06538004B2
4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione
4-Fluoro-3-trifluoromethylbenzaldehyde (0.28 g, 1.5 mmol), 1,3-cyclopentadione (0.15 g, 1.5 mmol), and 5-amino-1-methyl-1,2-dihydropyrazol-3-one (0.17 g, 1.5 mmol) were processed as described in Example 1 to provide 0.35 g of the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.21 (m, 2H), 2.7 (m, 2H), 3.51 (s, 3H), 4.8 (s, 1H), 7.35 (t, 1H), 7.45 (m, 1H), 7.55 (d, 1H), 9.6 (bs, 1H), 10.48 (s, 1H); MS (ESI−) m/z 366 (M−H)−; Anal. calcd for C17H13N3F4O2: C, 55.59;H, 3.51; N, 11.44. Found: C, 55.41;H, 3.37; N, 11.21.

reactant | 4-Fluoro-3-trifluoromethylbenzaldehyde | 1.5 mmol, 0.28 g | FC1=C(C=C(C=O)C=C1)C(F)(F)F | C8H4F4O
reactant | 1,3-cyclopentadione | 1.5 mmol, 0.15 g | C1CC(=O)CC1=O | C5H6O2
reactant | 5-amino-1-methyl-1,2-dihydropyrazol-3-one | 1.5 mmol, 0.17 g | NC1=CC(NN1C)=O | C4H7N3O
product | 4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1,2,4,6,7,8-hexahydrocyclopenta[b]pyrazolo[4,3-e]pyridine-3,5-dione | 0.35 g | FC1=C(C=C(C=C1)C1C2=C(NC3=C1C(NN3C)=O)CCC2=O)C(F)(F)F | C17H13F4N3O2
